US07612113B2
A mixture of 8-amino-1,2,3,4tetrahydro-naphthalen-2-ol (32.6 mg, 0.20 mmol) and (4trifluoromethoxy-phenyl)-carbamic acid phenyl ester (59.5 mg, 0.20 mmol) in DMSO (1.0 ml) was stirred at 100° C. for 1.5 hours. The mixture-was concentrated under reduced pressure, and then purified by preparatory HPLC to obtain N-(7-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-N′-(4-trifluoromethoxy-phenyl)-urea (15.5 mg, 21% yield).

reactant | 8-amino-1,2,3,4tetrahydro-naphthalen-2-ol | 0.20 mmol, 32.6 mg | NC=1C=CC=C2CCC(CC12)O | C10H13NO
reactant | (4trifluoromethoxy-phenyl)-carbamic acid phenyl ester | 0.20 mmol, 59.5 mg | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)OC(F)(F)F)=O | C14H10F3NO3
solvent | DMSO | 1.0 ml | CS(=O)C | C2H6OS
product | N-(7-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-N′-(4-trifluoromethoxy-phenyl)-urea | 15.5 mg, 21% yield | OC1CCC=2C=CC=C(C2C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C18H17F3N2O3
